US07732466B2
5-chloro-thiophene-2-carboxylic acid-N-{1-methyl-1-[3-methyl-4-(2-{3-hydroxy-prop-1-yl}-piperidin-1-yl-carbonyl)-phenylcarbamoyl]-ethyl}-amide
200 μl of a 0.05 molar solution of 4-{2-[(5-chloro-thiophene-2-carbonyl)-amino]-2-methyl-propionylamino}-2-methyl-benzoic acid, which additionally contains 0.05 mol/l DIPEA, in DMF are combined with 100 μl of a 0.1-molar solution of TBTU in DMF on a microtitre plate and mixed for 10 mins on a shaker. Then 200 μl of a 0,05-molar solution of (3-hydroxy-prop-1-yl)-piperidine, which additionally contains 0.05 mol/l DIPEA, are pipetted in and again mixed in by shaking. After 16 h at ambient temperature the mixture is filtered through basic aluminium oxide and washed with DMF/methanol=9:1. Then it is evaporated down i. vac.

reactant | 4-{2-[(5-chloro-thiophene-2-carbonyl)-amino]-2-methyl-propionylamino}-2-methyl-benzoic acid | ClC1=CC=C(S1)C(=O)NC(C(=O)NC1=CC(=C(C(=O)O)C=C1)C)(C)C | C17H17ClN2O4S
reactant | DIPEA | 0.05 mol/l | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (3-hydroxy-prop-1-yl)-piperidine | OCCCN1CCCCC1 | C8H17NO
reactant | DIPEA | 0.05 mol/l | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-thiophene-2-carboxylic acid-N-{1-methyl-1-[3-methyl-4-(2-{3-hydroxy-prop-1-yl}-piperidin-1-yl-carbonyl)-phenylcarbamoyl]-ethyl}-amide | CC(C)(C(NC1=CC(=C(C=C1)C(=O)N1C(CCCC1)CCCO)C)=O)NC(=O)C=1SC(=CC1)Cl | C25H32ClN3O4S
